### PR TITLE
[Merged by Bors] - chore(Data/ZMod): golf `natCast_mod`

### PR DESCRIPTION
**Pull request by euprunin**
Motivation: Avoid (partial) proof duplication.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Data/ZMod/Basic.lean [hunk 1]
```diff
@@ -732,11 +732,8 @@ theorem mul_inv_eq_gcd {n : ℕ} (a : ZMod n) : a * a⁻¹ = Nat.gcd a.val n :=
   · simpa [ZMod.val_one'' hn] using mul_inv_eq_gcd (1 : ZMod n)
 
 @[simp]
-theorem natCast_mod (a : ℕ) (n : ℕ) : ((a % n : ℕ) : ZMod n) = a := by
-  conv =>
-      rhs
-      rw [← Nat.mod_add_div a n]
-  simp
+theorem natCast_mod (a : ℕ) (n : ℕ) : ((a % n : ℕ) : ZMod n) = a :=
+  Eq.symm (CharP.cast_eq_mod (ZMod n) n a)
```
Comment (kim-em) [inline Mathlib/Data/ZMod/Basic.lean]:
```suggestion
  (CharP.cast_eq_mod (ZMod n) n a).symm
```

**Comment by kim-em** [comment]
bors d+
